US08304443B2
Tert-butyl 6-(tert-butyldiphenylsilyloxy)-3-chloroindazole-1-carboxylate
6-(Tert-butyldiphenylsilyloxy)-3-chloroindazole (18.458 g) which can be prepared according to the method described in Reference example 37, etc. was dissolved in dehydrated THF (200 mL), added with triethylamine (7.67 mL; manufactured by Wako Pure Chemical Industries, Ltd.), Boc2O (manufactured by Wako Pure Chemical Industries, Ltd.) and 4-N,N-dimethylaminopyridine (550 mg; manufactured by Wako Pure Chemical Industries, Ltd.), and stirred overnight at room temperature. The reaction solution was added with ethyl acetate and the organic layer was washed twice with 1 mol/L-hydrochloric acid and once with brine, and then dried over magnesium sulfate. The solvent was removed under reduced pressure. The resulting residue was purified by column chromatography (“COLUMN-A”; n-hexane:ethyl acetate=97:3→80:20) to obtain the title compound (17.513 g).

reactant | 6-(Tert-butyldiphenylsilyloxy)-3-chloroindazole | 18.458 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=CC=C2C(=NNC2=C1)Cl | C23H23ClN2OSi
reactant | triethylamine | 7.67 mL | C(C)N(CC)CC | C6H15N
reactant | Boc2O | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | Tert-butyl 6-(tert-butyldiphenylsilyloxy)-3-chloroindazole-1-carboxylate | 17.513 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=CC=C2C(=NN(C2=C1)C(=O)OC(C)(C)C)Cl | C28H31ClN2O3Si
